Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Double vision
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old male with type 2 DM, no medical care in ___ years, 
who  with ~10 days of double vision and inability to abduct left 
eye. Also found to have BS > 300, hypertensive to SBP 200.

Wife noticed that patient's eye was looking inward on last 
___, about one week ago. In retrospect, patient thinks that 
his vision was off (requiring him to close his left eye) 
beginning perhaps the ___ before, about 12 days ago. Then on 
___, he had a car accident because of these vision issues.

Endorses horizontal diplopia. Also has noted that his depth 
perception is off. 

ROS: On neurologic review of systems, the patient denies 
headache, lightheadedness, or confusion. Denies difficulty with 
producing or comprehending speech. Denies dysarthria, difficulty 
chewing, or dysphagia. Denies focal muscle weakness, numbness, 
parasthesia. Denies loss of sensation. Denies bowel or bladder 
incontinence or retention. Denies difficulty with gait (other 
than baseline arthritis).

On general review of systems, the patient endorses recent 
congestion, cough, and subjective fevers, in setting of 
suspected viral illness. No nausea, vomiting, diarrhea. 
 
Past Medical History:
Type 2 DM
HTN
Last saw a doctor in ___
 
Social History:
___
Family History:
Mother - ___, skin and breast cancer
Father - COPD, CHF
Brother - similar cranial nerve abnormality - told it was due to 
high blood pressure
Sister - stroke
 
Physical ___:
EXAM ON ADMISSION:
==========
Vitals:  T: 98.2  HR: 77  BP: 202/89  RR: 18  SaO2: 98% RA
General:  NAD, obese
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: warm and well-perfused
Pulmonary: breathing comfortably in room air
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate 
history without difficulty. Attentive, able to name ___ backward 
without difficulty. Speech is fluent with full sentences, intact 
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody. Able to follow both 
midline and appendicular commands.

- Cranial Nerves: PERRL 4->2 brisk with physiologic hippus. No 
RAPD. Left esotropia; cannot abduct left eye past midline. Full 
horizontal EOM on the right. Endorses horizontal diplopia 
throughout. Full vertical EOM bilaterally, with reported 
vertical diplopia on down-gaze. V1-V3 without deficits to light 
touch bilaterally. No facial movement asymmetry with full 
strength of facial musculature. Palate elevation symmetric. 
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.

  [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
   [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
L   5     5     5     5     5    4*    5     5     5    5 
R   5     5     5     5     5    4*    5     5     5    5

*Pain-limited due to hip arthritis.

No weakness with repetitive movement at the deltoid.
 
- Reflexes: 
      [Bic] [Quad] [Gastroc]
 L     1+     0        0      
 R     1+     0        0      

- Sensory: No deficits to light touch.

- Coordination: No dysmetria with finger to nose testing
bilaterally. 

=======================
DISCHARGE
Unchanged from admission except vitals:
T 98.4 BP 184 / 95 HR 80 RR 20 O2 94 Ra 
 
Pertinent Results:
PERTINENT LABS:
==============
___ 07:54PM BLOOD WBC-10.5* RBC-5.17 Hgb-15.4 Hct-46.7 
MCV-90 MCH-29.8 MCHC-33.0 RDW-12.8 RDWSD-43.2 Plt ___
___ 07:54PM BLOOD Glucose-304* UreaN-15 Creat-0.9 Na-139 
K-4.5 Cl-101 HCO3-24 AnGap-14
___ 07:54PM BLOOD ALT-29 AST-29 LD(LDH)-204 AlkPhos-65 
TotBili-0.4
___ 07:54PM BLOOD Calcium-9.9 Phos-3.3 Mg-1.7
___ 07:54PM BLOOD %HbA1c-10.5* eAG-255*
___ 07:54PM BLOOD TSH-5.8*
___ 07:54PM BLOOD CRP-33.5*
___ 05:25AM BLOOD WBC-9.9 RBC-4.70 Hgb-14.1 Hct-43.1 MCV-92 
MCH-30.0 MCHC-32.7 RDW-12.9 RDWSD-43.0 Plt ___
___ 05:25AM BLOOD Glucose-289* UreaN-16 Creat-1.0 Na-139 
K-4.7 Cl-102 HCO3-28 AnGap-9*
___ 05:25AM BLOOD Triglyc-267* HDL-43 CHOL/HD-3.6 
LDLcalc-58
___ 05:25AM BLOOD T4-7.0 Free T4-1.2

IMAGING:
========
Non-Con CT Head ___: No acute intracranial process.

Chest Xray ___: Mild enlargement of the cardiac silhouette 
though likely accentuated by low lung volumes.

MRI BRAIN/ORBITS ___:

MRI BRAIN: There is no evidence of restricted diffusion to 
suggest acute infarction. No evidence of acute intracranial 
hemorrhage. Mild prominence of the ventricles and sulci is 
suggestive of involutional changes. There is no mass effect or 
midline shift. Additionally, there are prominent CSF spaces 
along the bifrontal and biparietal cerebral convexities. 
Moreover, a CSF space in the left frontal parafalcine region may 
represent an arachnoid cyst (image 21 of series 15). There is a 
small chronic infarct in the anterior limb of the right internal 
capsule. Dilated perivascular spaces. There is no abnormal 
enhancement after contrast administration. The major 
intracranial arterial flow voids are preserved. The dural venous 
sinuses are patent. Mild-to-moderate mucosal thickening of the 
paranasal sinuses. Mastoid air cells are grossly clear.
 
MRI ORBITS: The bony orbits and preseptal soft tissues are 
normal. The globes are intact and normal in appearance. The 
optic nerves and complex are normal, without edema or abnormal 
enhancement. The extraocular muscles are uniform in size and 
normal in signal. The lacrimal apparatus is normal. Retrobulbar 
soft tissues are normal. 

IMPRESSION: 
1. No evidence of abnormal enhancement of the optic nerves and 
complexes. 
2. No evidence of acute infarction or intracranial hemorrhage. 
3. Small chronic infarct in the right internal capsule anterior 
limb. 
4. Mild parenchymal volume loss. 
5. Paranasal sinus disease. 

 
Brief Hospital Course:
___ year old male with type 2 DM, no medical care in ___ years, 
who presents with ~10 days of double vision and inability to 
abduct left eye. Also found to have BS > 300, hypertensive to 
SBP 200.

#CN VI Palsy
No evidence of any other cranial nerve abnormalities to suggest 
cavernous sinus pathology (III->V) or a larger brainstem 
infarction. Overall, most likely diagnosis is idiopathic ___ 
nerve palsy, which is often associated with poorly controlled 
diabetes, consistent with this patient's presentation. MRI 
negative for stroke, lesion or any other intracranial 
abnormality. MRI orbits showed no evidence of nerve/muscle 
inflammation. No signs/symptoms on exam to suggest myasthenia 
___. 

#Hypertension: 
likely chronic. Started chlorthalidone 25 mg daily then 
increased to 50mg daily. Will need further up-titration 
outpatient.

#Type 2 diabetes: 
- HbA1c 10.5 on admission. ___ consulted who recommended 
starting on 10U lantus. They will follow-up with him in one 
week.

#Elevated TSH
- normal fT4, so most likely reactive (CRP also elevated)

==========================
Transitional Issues:
-F/u with PCP for hypertension
-___ with ___ for DM management
-F/u with neuro-ophthalmology
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 500 mg PO DAILY 

 
Discharge Medications:
1.  Chlorthalidone 50 mg PO DAILY 
RX *chlorthalidone 50 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3 
2.  Glargine 10 Units Bedtime
RX *blood sugar diagnostic ___ Aviva Plus test strp]   
every morning when you wake up Disp #*30 Strip Refills:*0
RX *insulin glargine [Lantus Solostar U-100 Insulin] 100 unit/mL 
(3 mL) AS DIR 10 Units before BED; Disp #*30 Syringe Refills:*0
RX *blood-glucose meter   use every morning Disp #*1 Kit 
Refills:*0
RX *lancets ___ Safe-T-Pro] 23 gauge  every morning Disp 
#*1 Package Refills:*0 
3.  MetFORMIN (Glucophage) 500 mg PO DAILY 
Each week, increase your dose by 500mg until you get to 1000mg 
twice a day 
RX *metformin 500 mg 1 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sixth nerve palsy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ from 
___ until ___ because you were having difficulty 
moving your left eye. While hospitalized, you were found to have 
a condition called cranial nerve 6 palsy. Your blood pressure 
and blood sugar were also found to be elevated. While in the 
hospital, you had MRI of your brain that was normal. The blood 
vessels that supply your brain and eyes look normal.

After you leave the hospital, please follow up with a neuro 
ophthalmologist in clinic. You should also follow up with your 
PCP to ensure proper control of your diabetes and high blood 
pressure. You also have an appointment scheduled with the ___ 
Diabetes clinic.

Thank you for allowing us to take part in your care. It was our 
pleasure to care for you.

Sincerely,

___ Neurology
 
Followup Instructions:
___